US05134231
In the same manner as in Reference Example 4-2-(1) but using 60 % sodium hydride (88 mg; 2.2 mmole), diethyl 2-acetyl-3-benzylamino-2-pentenedioate (333 mg; 1 mmole) and methyl iodide (156 mg; 1.1 mmole), there was produced diethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate.

reactant | sodium hydride | 2.2 mmole, 88 mg | [H-].[Na+]
reactant | diethyl 2-acetyl-3-benzylamino-2-pentenedioate | 1 mmole, 333 mg | C(C)(=O)C(C(=O)OCC)=C(CC(=O)OCC)NCC1=CC=CC=C1 | C18H23NO5
reactant | methyl iodide | 1.1 mmole, 156 mg | CI | CH3I
product | diethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate | C(C)(=O)C(C(=O)OCC)=C(C(C(=O)OCC)C)NCC1=CC=CC=C1 | C19H25NO5
